US05641775
N-(3-cyanophenyl)-N'-(2,3,4,5-tetrahydro-2,4-dioxo-1-methyl-5-phenyl-1H-1,5-benzodiazepin-3-yl)urea
3-Amino-1-methyl-5-phenyl-2,3,4,5-tetrahydro-2,4-dioxo-1H-1,5-benzodiazepine (360 mg) was suspended in dry THF (10 ml) under nitrogen. N-(3-cyanophenyl)-1H-imidazole-1-carboxamide (326 mg) was added, and the mixture stirred at room temperature for 2 h. The mixture was filtered to give the title compound (510 mg) as a white solid m.p.>250°.

reactant | 3-Amino-1-methyl-5-phenyl-2,3,4,5-tetrahydro-2,4-dioxo-1H-1,5-benzodiazepine | 360 mg | NC1C(N(C2=C(N(C1=O)C)C=CC=C2)C2=CC=CC=C2)=O | C16H15N3O2
reactant | N-(3-cyanophenyl)-1H-imidazole-1-carboxamide | 326 mg | C(#N)C=1C=C(C=CC1)NC(=O)N1C=NC=C1 | C11H8N4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-(3-cyanophenyl)-N'-(2,3,4,5-tetrahydro-2,4-dioxo-1-methyl-5-phenyl-1H-1,5-benzodiazepin-3-yl)urea | 510 mg | C(#N)C=1C=C(C=CC1)NC(=O)NC1C(N(C2=C(N(C1=O)C)C=CC=C2)C2=CC=CC=C2)=O | C24H19N5O3
